US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-cyclohexylbenzamide
4-Cyclohexylbenzoic acid (0.50 g, 2.4 mmol) was dissolved in thionyl chloride (20 mL) and heated at reflux for 30 min. The excess of thionyl chloride was evaporated in vacuo, the residue was treated with toluene and again the solvent was removed in vacuo. Crude acid chloride (96 mg, 0.43 mmol) was dissolved in methylene chloride (5 mL) and added dropwise to an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (100 mg, 0.41 mmol) and triethylamine (62 μL, 0.45 mmol) in methylene chloride (20 mL). After the addition the reaction was allowed to stir at ambient temperature for 15 min and then washed with water. The phases were separated and the organic phase was dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/methanol/concentrated ammonium hydroxide (95:5:0.5) as the eluent. Yield: 150 mg (85%) of the title compound as white crystals: mp 224-226° C.; [α]21D -43° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 431 (2, M+).

reactant | 4-Cyclohexylbenzoic acid | 2.4 mmol, 0.50 g | C1(CCCCC1)C1=CC=C(C(=O)O)C=C1 | C13H16O2
reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.41 mmol, 100 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 0.45 mmol, 62 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-cyclohexylbenzamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC=C(C=C1)C1CCCCC1)=O | C28H37N3O
